US07208513B2
C. 2-{3-Bromo-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazolyl}-perhydro-2H-pyran
2-(5-(1H-1,2,4-Triazol-3-yl)-3-bromo-1H-indazolyl)perhydro-2H-pyran (15.05 g, 43.22 mmol), triphenylmethyl chloride (19.54 g, 70.09 mmol), and triethylamine (9.9 mL, 71.02 mmol) was taken up in pyridine (115 mL) and heated at 50° C. overnight. The reaction was quenched with methanol (10 mL), cooled to room temperature, and condensed. The brown oil was dissolved in ethyl acetate and washed with sodium bicarbonate (saturated aqueous). Upon sonication in a ultrasonic bath a white to yellow precipitate formed that was filtered and washed with 10% ethyl acetate in hexanes. The precipitate was dried in a vacuum oven overnight (23.80 g, 93% yield): ES-MS (m/z) 590 [M+1]+.

reactant | 2-(5-(1H-1,2,4-Triazol-3-yl)-3-bromo-1H-indazolyl)perhydro-2H-pyran | 43.22 mmol, 15.05 g | N1N=C(N=C1)C=1C=C2C(=NN(C2=CC1)C1OCCCC1)Br | C14H14BrN5O
reactant | triphenylmethyl chloride | 70.09 mmol, 19.54 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 71.02 mmol, 9.9 mL | C(C)N(CC)CC | C6H15N
solvent | pyridine | 115 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{3-Bromo-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazolyl}-perhydro-2H-pyran | 93% yield | BrC1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1 | C33H28BrN5O
